US05635510
40.1 Synthesis of 2-[3-(3,4-dichloro-phenyl]-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (2 mmol) and 4-chlorobenzoyl chloride (2 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 2 mmol | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-chlorobenzoyl chloride | 2 mmol | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 2-[3-(3,4-dichloro-phenyl]-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=C(C=C1)Cl)=O)CCO | C19H18Cl3NO2
